US09079866B2
Step A: 5-(4-Chloro-2-fluorophenyl)pyrazin-2-amine
To a nitrogen flushed flask containing 4-chloro-2-fluorobenzene boronic acid (40.0 g, 229 mmol), 2-amino-5-bromopyrazine (39.9 g, 229 mmol), palladium(II) trifluoroacetate (1.5 g, 4.6 mmol), and triphenylphosphine (2.4 g, 9.2 mmol) were added sparged toluene (750 mL), ethanol (750 mL), and 2 M Na2CO3(aq) (418 mL, 836 mmol). The mixture was stirred and heated at 50° Celsius for 15 hours and then cooled to rt. Water (750 mL) was added and the layers were separated. The aqueous layer was washed with ethyl acetate (750 mL). The combined organic layers were washed with brine (500 mL), dried over Na2SO4, filtered, and concentrated to dryness to give 55.4 g of crude product. The crude solid was crystallized from toluene (450 mL) to provide the title compound (40.0 g, 78%). MS (ESI): mass calcd. for C10H7ClFN3, 223.03; m/z found, 224.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.34 (dd, J=2.6, 1.5, 1H), 8.03 (d, J=1.6, 1H), 7.89 (m, 1H), 7.52 (dd, J=11.3, 2.1, 1H), 7.38 (dd, J=8.5, 2.1, 1H), 6.79 (s, 2H).

reactant | 4-chloro-2-fluorobenzene boronic acid | 229 mmol, 40.0 g | ClC1=CC(=C(C=C1)B(O)O)F | C6H5BClFO2
reactant | 2-amino-5-bromopyrazine | 229 mmol, 39.9 g | NC1=NC=C(N=C1)Br | C4H4BrN3
reactant | toluene | 750 mL | C1(=CC=CC=C1)C | C7H8
reactant | Na2CO3 | 836 mmol, 2 M, 418 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | palladium(II) trifluoroacetate | 4.6 mmol, 1.5 g | FC(C(=O)[O-])(F)F.[Pd+2].FC(C(=O)[O-])(F)F
catalyst | triphenylphosphine | 9.2 mmol, 2.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | Water | 750 mL | O | H2O
solvent | ethanol | 750 mL | C(C)O | C2H6O
product | 5-(4-Chloro-2-fluorophenyl)pyrazin-2-amine | 40.0 g, 78% | ClC1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C10H7ClFN3
